US04185115
Preparation of 4-(2-Thienyl)butanol
To 240 ml. of 1 M borane in tetrahydrofuran chilled in an ice bath, is added dropwise, 20.4 g. of 4-(2-thienyl)butyric acid in 50 ml. of tetrahydrofuran. After the addition, the mixture is allowed to stand at room temperature for 17 hours and is poured onto ice. After standing, the mixture is extracted with ether, the ether extract washed with water, dried over magnesium sulfate and concentrated in vacuo to give a pale yellow oil.

reactant | borane | 1 M | B | BH3
reactant | 4-(2-thienyl)butyric acid | S1C(=CC=C1)CCCC(=O)O | C8H10O2S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-(2-Thienyl)butanol | S1C(=CC=C1)CCCCO | C8H12OS
